US05025025
To a suspension of 69g of 5-carboxypentyl-triphenylphosphonium bromide in a mixture of 125 mL of DMSO and 250 mL THF cooled to 20° is added 130 mL of a 2.4M solution of n-butyllithium dropwise over a period of 30 minutes. After stirring for 45 minutes a solution of 10.7g 3-pyridine-carboxaldehyde in 25 mL of THF is added dropwise, then the solution is stirred for 1 hour before adding water and ethyl acetate. The aqueous layer is separated, acidified to pH 6 and extracted with ethyl acetate. The ethyl acetate extract is dried over magnesium sulfate, filtered and concentrated to give 7-(3-pyridyl)-hept-6-enoic acid which is converted to methyl 7-(3-pyridyl)-hept-6-enoate by refluxing in methanolic hydrochloric acid.

reactant | 5-carboxypentyl-triphenylphosphonium bromide | [Br-].C(=O)(O)CCCCC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | n-butyllithium | C(CCC)[Li]
reactant | 3-pyridine-carboxaldehyde | 10.7g | N1=CC(=CC=C1)C=O | C6H5NO
reactant | water | O | H2O
solvent | DMSO | 125 mL | CS(=O)C | C2H6OS
solvent | THF | 250 mL | C1CCOC1 | C4H8O
solvent | THF | 25 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 7-(3-pyridyl)-hept-6-enoic acid | N1=CC(=CC=C1)C=CCCCCC(=O)O | C12H15NO2
